US07732618B2
b.) {5-[Benzothiazol-2-ylmethyl-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[Benzothiazol-2-ylmethyl-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ8.08 (m, 1H), 7.86 (m, 1H), 7.79 (m, 2H), 7.45 (m, 4H), 7.25 (m, 2H), 6.91 (d, 1H), 5.33 (s, 2H), 4.39 (s, 2H), 2.65 (t, 2H), 1.72 (m, 2H), 0.92 (t, 3H). MS calculated for C26H23FN4O4S2+H: 539, observed: 539.

reactant | {5-[Benzothiazol-2-ylmethyl-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)F)CC=2SC1=C(N2)C=CC=C1)CCC)=O | C30H31FN4O4S2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[Benzothiazol-2-ylmethyl-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | S1C(=NC2=C1C=CC=C2)CN(C2=CC1=C(N(C(=N1)CCC)CC(=O)O)C=C2)S(=O)(=O)C2=CC=C(C=C2)F | C26H23FN4O4S2
